US07247646B2
F. 3-(2,4-Dichlorophenyl)-7-hydroxy-8-iodo-4-(4-(2-pyrrolidin-1-yl-ethoxy)-benzyl)-chromen-2-one
To a stirred suspension 4-(4-(2-Bromoethoxy)-benzyl)-3-(2,4-dichlorophenyl)-7-hydroxy-8-iodo-chromen-2-one (1.90 g, 2.94 mmol) in anhydrous THF (20 mL) was added pyrrolidine (1.46 mL, 17.6 mmol), and the resulting yellow solution was heated at 85° C. for 1.5 h. The resultant mixture was cooled to room temperature and the solvent was removed in vacuo. The resultant residue was dissolved in CH2Cl2, washed with H2O and brine and dried (MgSO4). The organic phase was concentrated in vacuo. The resultant residue was purified using flash chromatography (200 g silica gel, 12:1→9:1→85:15 CH2Cl2:MeOH) to afford the title compound as a yellow solid (1.87 g, 100%). 1H NMR (300 MHz, CDCl3) δ 7.50 (d, J=2.0 Hz, 1H), 7.32 (d, J=8.8 Hz, 1H), 7.26 (dd, J=2.0, 8.0 Hz, 1H), 7.12 (d, J=8.0 Hz, 1H), 6.95–6.86 (m, 3H), 6.77–6.70 (m, 2H), 4.30 (t, J=5.0 Hz, 2H), 4.00 (d, J=15.5 Hz, 1H), 3.76 (d, J=15.5 Hz, 1H), 3.25 (t, J=5.0 Hz, 2H), 3.19–3.04 (m, 4H), 2.04–1.91 (m, 4H); MS (ESI) m/z 635.6 (M)+; HPLC tR 5.85 min.

reactant | 4-(4-(2-Bromoethoxy)-benzyl)-3-(2,4-dichlorophenyl)-7-hydroxy-8-iodo-chromen-2-one | 2.94 mmol, 1.90 g | BrCCOC1=CC=C(CC2=C(C(OC3=C(C(=CC=C23)O)I)=O)C2=C(C=C(C=C2)Cl)Cl)C=C1 | C24H16BrCl2IO4
reactant | pyrrolidine | 17.6 mmol, 1.46 mL | N1CCCC1 | C4H9N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-(2,4-Dichlorophenyl)-7-hydroxy-8-iodo-4-(4-(2-pyrrolidin-1-yl-ethoxy)-benzyl)-chromen-2-one | 1.87 g, 100% | ClC1=C(C=CC(=C1)Cl)C=1C(OC2=C(C(=CC=C2C1CC1=CC=C(C=C1)OCCN1CCCC1)O)I)=O | C28H24Cl2INO4
